US06353006B1
2-Hydroxyethylamine and cyclohexanone were reacted according to Method B4a, Step 1 to afford 4-aza-1-oxaspiro[4.5]decane. The oxazolidine was reduced according to method B4a, Step 2 to afford N-cyclohexyl-N-(2-hydroxyethyl)amine. The alcohol was reacted with SOCl2 according to Method B7c to afford N-cyclohexyl-N-(2-chloroethyl)amine. The amine was reacted with 2-methoxy-4-nitrophenyl isothiocyanate according to Method C1d to afford 2-(2-methyl-4-nitrophenylimino)-3-cyclohexyl-1,3-thiazolidine.

reactant | 2-Hydroxyethylamine | OCCN | C2H7NO
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 4-aza-1-oxaspiro[4.5]decane | O1CCNC12CCCCC2 | C8H15NO
